US07223833B1
N-(N-Boc-2-aminoethyl)-N-(Cbz)glycine (7)
Aminoethyl glycine (52.86 g; 0.447 mol) was dissolved in water (900 ml) and dioxane (900 ml) was added. The pH was adjusted to 11.2 with 2N NaOH. While the pH was kept at 11.2, tert-butyl-p-nitrophenyl carbonate (128.4 g; 0.537 mol) was dissolved in dioxane (720 ml) and added dropwise over the course of 2 hours. The pH was kept at 11.2 for at least three more hours and then left with stirring overnight. The yellow solution was cooled to 0° C. and the pH was adjusted to 3.5 with 2 N HCl. The mixture was washed with chloroform (4×100 ml), and the pH of the aqueous phase was readjusted to 9.5 with 2N NaOH at 0° C. Cbz chloride (73.5 ml; 0.515 mol) was added over half an hour, while the pH was kept at 9.5 with 2 N NaOH. The pH was adjusted frequently over the next 4 hours, and the solution was left with stirring overnight. On the following day the solution was washed with ether (3×600 ml) and the pH of the solution was afterwards adjusted to 1.5 with 2 N HCl at 0° C. The title compound was isolated by extraction with ethyl acetate (5×1000 ml). The ethyl acetate solution was dried over magnesium sulfate and evaporated to dryness, in vacuo. This afforded 138 g, which was dissolved in ether (300 ml) and precipitated by the addition of petroleum ether (1800 ml). Yield 124.7 g (79%). M.p. 64.5-85° C. Anal. for C17H24N2O6 found(calc.) C, 58.40(57.94); H: 7.02(6.86); N: 7.94(7.95). 1H-NMR (250 MHz, CDCl3) 7.33 & 7.32 (5H, Ph); 5.15 & 5.12 (2H, PhCH2); 4.03 & 4.01 (2H, NCH2CO2H); 3.46 (b, 2H, BocNHCH2CH2); 3.28 (b, 2H, BocNHCH2CH2); 1.43 & 1.40 (9H, tBu). HPLC (260 nm) 20.71 min. (80.2%) and 21.57 min. (19.8%). The UV-spectra (200 nm -300 nm) are identical, indicating that the minor peak consists of Bis-Z-AEG.

reactant | Aminoethyl glycine | 0.447 mol, 52.86 g | NCCNCC(=O)O | C4H10N2O2
reactant | NaOH | 2N | [OH-].[Na+]
reactant | tert-butyl-p-nitrophenyl carbonate | 0.537 mol, 128.4 g | C(OC1=C(C=C(C=C1)[N+](=O)[O-])C(C)(C)C)([O-])=O
reactant | HCl | 2 N | Cl | ClH
reactant | Cbz chloride | 0.515 mol, 73.5 ml | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | NaOH | 2 N | [OH-].[Na+]
reactant | dioxane | 720 ml | O1CCOCC1 | C4H8O2
reactant | dioxane | 900 ml | O1CCOCC1 | C4H8O2
solvent | water | 900 ml | O | H2O
product | N-(N-Boc-2-aminoethyl)-N-(Cbz)glycine | C(=O)(OC(C)(C)C)NCCN(CC(=O)O)C(=O)OCC1=CC=CC=C1 | C17H24N2O6
